US07829585B2
(5-Benzyloxy-benzofuran-2-yl)-methanol
To a tetrahydrofuran (20 mL) solution of 5-benzyloxy-benzofuran-2-carboxylic acid ethyl ester (890 mg, 3.00 mmol) described in Production Example 7-1-3 was added lithium aluminum hydride (342 mg, 9.00 mmol) at 0° C., which was stirred at room temperature for 3 hours. To the reaction solution were added water (342 μL), 5 N aqueous sodium hydroxide solution (342 μL) and water (1.03 mL) at 0° C. followed by filtering through Celite. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (561 mg, 74%) as a white solid.

reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 5-benzyloxy-benzofuran-2-carboxylic acid ethyl ester | 3.00 mmol, 890 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCC2=CC=CC=C2 | C18H16O4
reactant | lithium aluminum hydride | 9.00 mmol, 342 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 N, 342 μL | [OH-].[Na+]
solvent | water | 1.03 mL | O | H2O
solvent | water | 342 μL | O | H2O
product | (5-Benzyloxy-benzofuran-2-yl)-methanol | 561 mg, 74% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)CO)C1 | C16H14O3
